US07754746B2
Imidazole-1-carboxylic acid [5-(4-acetyl-phenyl)-4-methyl-thiazol-2-yl]-amide
A solution of 1-[4-(2-Amino-4-methyl-thiazol-5-yl)-phenyl]-ethanone (0.57 g, 2.45 mmol) is dissolved in a mixture of THF (10 ml) and dichloromethane (20 ml) and heated in an oil bath set to 50° C. Carbonyldiimidazole is added (0.64 g, 3.92 mmol) and the reaction mixture heated at 50° C. for a further 2 hours in which a pale yellow precipitate forms. After cooling to room temperature the precipitate is filtered, washed with dichloromethane and dried under high vacuum.

reactant | 1-[4-(2-Amino-4-methyl-thiazol-5-yl)-phenyl]-ethanone | 2.45 mmol, 0.57 g | NC=1SC(=C(N1)C)C1=CC=C(C=C1)C(C)=O | C12H12N2OS
reactant | Carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Imidazole-1-carboxylic acid [5-(4-acetyl-phenyl)-4-methyl-thiazol-2-yl]-amide | C(C)(=O)C1=CC=C(C=C1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C | C16H14N4O2S
